US04831150
2-(5-Amino-2-fluorophenyl)-3-chloro-4,5,6,7-tetrahydro-2H-indazole (22.97 g) was dissolved in 95% aqueous acetic acid (79.53 g), and ammonium thiocyanate (15.92 g) was added thereto at room temperature (ca. 20° C.). To the resultant mixture, a solution of bromine (15.89 g) in, acetic acid (23.77 g) was dropwise added in 105 minutes. After being allowed to stand overnight, the mixture was heated to 100° C., and hot water (173 ml) was added thereto, followed by filtration. The filtrate was cooled and neutralized with sodium carbonate. The precipitated crystals were collected by filtration and dried to give 2-(2-amino-6-fluorobenzothiaol-5-yl)-3-chloro-4,5,6,7-tetrahydro-2H-indazole (8.77 g). m.p., 212.4° C.

reactant | 2-(5-Amino-2-fluorophenyl)-3-chloro-4,5,6,7-tetrahydro-2H-indazole | 22.97 g | NC=1C=CC(=C(C1)N1N=C2CCCCC2=C1Cl)F | C13H13ClFN3
reactant | ammonium thiocyanate | 15.92 g | [S-]C#N.[NH4+]
reactant | bromine | 15.89 g | BrBr | Br2
reactant | water | 173 ml | O | H2O
reactant | acetic acid | 79.53 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 23.77 g | C(C)(=O)O | C2H4O2
product | 2-(2-amino-6-fluorobenzothiaol-5-yl)-3-chloro-4,5,6,7-tetrahydro-2H-indazole | 8.77 g | NC=1SC2=C(C1)C=C(C(=C2)F)N2N=C1CCCCC1=C2Cl | C15H13ClFN3S
